US06765012B2
3-{[4-(3-Diethylamino-propoxy)-3-fluoro-phenylamino]-methylene}-6-fluoro-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(3-diethylamino-propoxy)-3-fluoro-phenylamine (400 mg, 1.1 equiv.) and 6-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one (269 mg, 1.5 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (195 mg, 32%).

reactant | 4-(3-diethylamino-propoxy)-3-fluoro-phenylamine | 400 mg, 1.1 equiv. | C(C)N(CCCOC1=C(C=C(C=C1)N)F)CC | C13H21FN2O
reactant | 6-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 1.5 mmol, 269 mg, 1 equiv. | FC1=CC=C2C(C(NC2=C1)=O)=CO | C9H6FNO2
product | 3-{[4-(3-Diethylamino-propoxy)-3-fluoro-phenylamino]-methylene}-6-fluoro-1,3-dihydro-indol-2-one | 195 mg, 32% | C(C)N(CCCOC1=C(C=C(C=C1)NC=C1C(NC2=CC(=CC=C12)F)=O)F)CC | C22H25F2N3O2
